US04394515
8-Chlorodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide
320 Mg. 8-chloro-3-cyanodibenzo[b,f]thiepin-5,5-dioxide is refluxed for 24 hours in a mixture of 10 cc. acetic acid and 10 cc. 50% aqueous sulfuric acid. The mixture is cooled down and the crystalline product filtered, washed with water and dried at 70° C., 0.5 mm./Hg., to yield 289 mg. (82%) of pure acid, m.p. 276°-278° C.

reactant | 8-chloro-3-cyanodibenzo[b,f]thiepin-5,5-dioxide | ClC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C#N)C1 | C15H8ClNO2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Chlorodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide | ClC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | C15H9ClO4S
